US04621901
A solution of 3.7 g of p-(4,4-ethylenedioxy-1-butenyl)benzonitrile in 50 ml of toluene was treated with 350 mg of palladium/carbon (5%) and the mixture was hydrogenated for 2.5 hours (hydrogen consumption 385 ml). The reaction mixture was then filtered (rinsing with diethyl ether) and the filtrate was evaporated. There were obtained 308 mg (82%) of p-(4,4-ethylenedioxybutyl)benzonitrile as a colourless, partially crystallizing oil.

reactant | p-(4,4-ethylenedioxy-1-butenyl)benzonitrile | 3.7 g | C1OC(CC=CC2=CC=C(C#N)C=C2)OC1 | C13H13NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/carbon | 350 mg | [Pd] | Pd
product | p-(4,4-ethylenedioxybutyl)benzonitrile | 308 mg, 82% | C1OC(CCCC2=CC=C(C#N)C=C2)OC1 | C13H15NO2
